* C:\Users\dvorakj\Documents\GitHub\Simple-VCA\vca.asc
Q1 N009 N008 N010 0 BC817-40T116
Q2 N006 0 N010 0 BC817-40T116
R1 N010 N014 15k
R2 N014 -15V 15k
Q3 0 N013 N014 0 BC817-40T116
R3 N015 N013 20k
R4 N013 N012 20k
R5 N015 15V {Rnull}
R6 -15V N015 {47k - Rnull}
XU1 0 N011 15V -15V N012 LT1013
R7 N012 N011 100k
R8 N011 CV 50k
V1 CV 0 PULSE(0 5 5m 2m 5m 50m 200m)
R9 N003 N009 15k
R10 N004 N006 15k
R11 15V N003 {Rbalance}
R12 N004 15V {1k - Rbalance}
R13 N008 N002 100k
XU2 0 N001 15V -15V N002 LT1013
R14 N002 N001 50k
R15 N001 audio 100k
R16 N008 0 1k
V2 15V 0 15V
V3 5V 0 5V
V4 -15V 0 -15V
XU3 N007 N005 15V -15V out LT1013
R17 out N005 100k
R18 N005 N006 10k
R19 N007 N009 10k
R20 0 N007 100k
V5 audio 0 PULSE(-5 5 0 50u 50u 0 100u)
V6 NC_01 NC_02 3.3
.model NPN NPN
.model PNP PNP
.lib C:\Users\dvorakj\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 11m
* .step param Rnull list 30k 22.5k 15k
.param Rnull=22.5k
.param Rbalance=500
.lib LTC.lib
.backanno
.end
